US07163947B2
A solution of 2-propyl-1H-imidazo[4,5-c]quinolin-1-amine (4.64 g, 20.5 mmol) in 60 mL of acetonitrile and 15 mL of glacial acetic acid was treated with 2,2-dimethoxypropane (12.6 mL, 103 mmol) and heated to 100° C. under an atmosphere of nitrogen. After 6 d, the reaction mixture was concentrated under reduced pressure to yield a brown oil. The oil was dissolved in 100 mL of CHCl3 and washed with 10% Na2CO3 (2×25 mL), water (25 mL), brine (25 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to give 4.30 g of N-isopropylidene-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)amine as a brown oil.

reactant | 2-propyl-1H-imidazo[4,5-c]quinolin-1-amine | 20.5 mmol, 4.64 g | C(CC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)N | C13H14N4
reactant | 2,2-dimethoxypropane | 103 mmol, 12.6 mL | COC(C)(C)OC | C5H12O2
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | N-isopropylidene-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)amine | 4.30 g | C(C)(C)=NN1C(=NC=2C=NC=3C=CC=CC3C21)CCC | C16H18N4
